US05885999
b) 1-(2-Aminophenyl)-4-benzylpiperazine
Tin (II) chloride (12.77 g, 67 mmol) was added to a solution of 1-benzyl-4-(2-nitrophenyl)piperazine (4.0 g, 13 mmol) in ethanol (50 mL) and the mixture was heated at 70° C. for 1 h. The solvent was evaporated under reduced pressure and the residue was diluted with ethyl acetate and washed with aqueous sodium hydroxide (2M, 4×). The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with EtOAc/Hexane (80:20 increasing to 75:25) to give the title compound as a pale yellow solid (2.61 g, 72%), δH (250 MHz, CDCl3) 7.38-7.25 (5H, m), 7.03-6.89 (2H, m), 6.77-6.70 (2H, m), 4.05-3.90 (2H, br s), 3.59 (2H, s), 2.96-2.92 (4H, m), and 2.65-2.55 (4H, br s).

reactant | Tin (II) chloride | 67 mmol, 12.77 g | [Sn](Cl)Cl
reactant | 1-benzyl-4-(2-nitrophenyl)piperazine | 13 mmol, 4.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H19N3O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-(2-Aminophenyl)-4-benzylpiperazine | 2.61 g, 72% | NC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=CC=C1 | C17H21N3
